US05496843
6) 7-Chloro-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylic acid
To a mixture of aqueous 20% TiCl3 (145 g, 0.188 mol), water (150 mL), and acetone (150 mL) was added dropwise a solution of 6-chloro-1-ethoxalyl-8-nitrotetralin (8.39 g, 0.027 mol) in acetone (150 mL) at 0° C. The mixture was stirred for 1 h at room temperature, diluted with water, and extracted with ethyl acetate (400 mL×2). The combined organic layers were washed successively with water and brine, dried over magnesium sulfate, and concentrated. The residue was dissolved in a mixture of THF (60 mL) and MeOH (60 mL) and 1N NaOH (60 mL) was added. The mixture was stirred for 2 h at room temperature, washed with diethyl ether (600 mL), acidified to pH 3 by using aqueous 5% KHSO4 and extracted with ethyl acetate (400 mL×2). The combined organic layers were washed successively with water and brine, dried over magnesium sulfate, and concentrated to give 2.07 g of the title compound: 1H NMR (CDCl3) δ8.57 (bs, 1H), 7.18 (s, 1H), 6.86 (s, 1H), 3.14 (t, 2H, J=6.1 Hz), 2.91 (t, 2H, J=6.1 Hz), 2.10 (m, 2H).

reactant | 6-chloro-1-ethoxalyl-8-nitrotetralin | 0.027 mol, 8.39 g | ClC=1C=C2CCCC(C2=C(C1)[N+](=O)[O-])C(=O)C(=O)OCC | C14H14ClNO5
solvent | acetone | 150 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | acetone | 150 mL | CC(=O)C | C3H6O
solvent | water | 150 mL | O | H2O
product | 7-Chloro-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylic acid | 2.07 g | ClC=1C=C2C=3C(=C(NC3C1)C(=O)O)CCC2 | C12H10ClNO2
